US05569768
Sodium hydride was added portionwise to a stirred solution of ethyl acetoacetate (0.1 mole , 13.0 g) in 300 ml THF. The solution was stirred for 30 minutes. 5-Bromo-2-methyl-2-pentene (0.11 moles, 17.9 g) was added dropwise over 30 minutes. The solution stirred at room temperature for 40 hours. The solution was concentrated in vacuo. Ethyl acetate and water were added. The organic phase was dried over sodium sulfate and concentrated. The product was purified by HPLC over silica gel eluted with a gradient of 0-40% ethyl acetate in hexane to yield 4.5 g of ethyl 2-acetyl-6-methyl-5-heptenoate.

reactant | Sodium hydride | [H-].[Na+]
reactant | ethyl acetoacetate | 0.1 mole, 13.0 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 5-Bromo-2-methyl-2-pentene | 0.11 moles, 17.9 g | BrCCC=C(C)C | C6H11Br
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | ethyl 2-acetyl-6-methyl-5-heptenoate | 4.5 g | C(C)(=O)C(C(=O)OCC)CCC=C(C)C | C12H20O3
